US06706930B2
Preparation of 2,5-dichloroacetophenone (First Reaction Stage)
147 g (1.0 mol) of p-dichlorobenzene are completely melted at 60° C. in an apparatus having an attached dropping funnel, stirrer and reflux condenser. 120 g (0.9 mol) of anhydrous AlCl3 are added to the melt. 39.3 g (0.5 mol) of acetyl chloride are then added dropwise to the readily stirrable suspension at 60° C. in the course of about 1 hour, a clear solution slowly resulting. After heating to 110° C., the mixture is stirred at this temperature for 7 hours. After cooling to room temperature, the brown reaction mass is hydrolysed by cautious decantation onto a mixture of 200 ml of water and 200 g of ice. The temperature of the mixture is kept between 30 and 40° C. during the hydrolysis by external cooling. After separation of the phases, the lower, organic phase is washed with 400 ml of water and, after fresh phase separation, subjected to fractional distillation. The aqueous phases are discarded.

reactant | p-dichlorobenzene | 1.0 mol, 147 g | C1=CC(=CC=C1Cl)Cl | C6H4Cl2
reactant | AlCl3 | 0.9 mol, 120 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | acetyl chloride | 0.5 mol, 39.3 g | C(C)(=O)Cl | C2H3ClO
solvent | water | 200 ml | O | H2O
product | 2,5-dichloroacetophenone | CC(=O)C1=C(C=CC(=C1)Cl)Cl | C8H6Cl2O
